*lspiral transient analysis
.options verbose
.options gsub11=9.90e-3 gsub21=2.189e-3 gsub31=1.688e-3

.tran2 tstop=1n tstep=4e-13 out_steps=100

isource:isrc 0 1 iac=1m f=8.8GHz

* RLC tank - capacitor value ignores non-idealities
resistor:RL 1 0 r=1k
capacitor:CL 1 0 c={1/(9.5e-9*(8.8GHz*2*pi)**2)}
lspiral:ls1 1 0 0 rdc=2.778 ldc=4.325e-9 rs1=26e3 ls1=1e-6 ms1=13.61e-9
+ cw=10.00e-15 cox1=19.71e-15 csub11=64.67e-15 rsub11={1/gsub11} cox2=73.01e-15
+ csub21=10.82e-15 rsub21={1/gsub21} cox3=15.27e-15 csub31=31.06e-15
+ rsub31={1/gsub31}

.options gnuplot

.options preamble="set title 'Parallel RLC Tank: 9.5-nH Planar Spiral Inductor'; set zero 1e-15; set grid; set data style lines;set xlabel 'Time (s)'; set key noautotitles; set ylabel 'Tank Voltage (V)';set yrange [-0.8:0.8]"

.out plot term "1" vt preamble in "lsp_tr.dat"

