* Transient tlinp4 test

.options f0 = 9e9

.tran2 tstop = 1e-9 tstep = .002e-9

vsource:v2 202 0 vdc= -6. vac= 5. f= f0 phase=90

resistor:rs 1 202 r=75.

tlinp4:t1  1 0 2 0
+ z0mag=75.00 nsect=1 length=978.57e-6 k=7 tand=.01 fscale=1.e10 alpha=1. fmax=1e10

resistor:rl 2 0  r=75.

.options gnuplot
.out plot term 1 vt in "tlinp4.1.tran"
.out plot term 2 vt in "tlinp4.2.tran"

.end
