# ifREEDA 0.1  /home/nmkripla/releases/freeda-1.3/simulator/projects/ac_prj/ac.sch





vsource:v1 1 0 vac=1
c:c1 2 0 c=1e-12
r:r1 2 0 r=2e3
vccs:v1 2 0 1 0 g=1e-3 ri=1e3 ro=2e3


.ac start=0.01e9 stop=20e9 n_freqs=100


.out plot term "2" vf mag in "/home/nmkripla/releases/freeda-1.3/simulator/projects/ac_prj/v11.out"
.out plot element "vsource:v1" 0 if mag db in "/home/nmkripla/releases/freeda-1.3/simulator/projects/ac_prj/iv1.out"



.end
