* DC CMOS Inverter Test

.dc sweep="vsource:Vin" start=0 stop=5 step=0.1

vsource:Vdd 1 0 vdc=5
vsource:Vin 2 0

cmosinv:inverter 1 2 3 0 
resistor:R 3 0 r=1000000

.out plot term 3 vt in "CMOS_Inverter_DC.out"

.end

