Test for the AC analysis.

.ac start = .01e9 stop = 20e9 n_freqs = 100

vsource:v1 1 0 vac=1
g:g1 1 2 0 0 g=1e-3 ri=1e3 ro=2e3

capacitor:cload 2 0 c=1e-12
resistor:rload  2 0 r=2e3

.out plot term 2 vf mag  in "v11.out"
.out plot element "vsource:v1" 0 if mag db in "iv1.out"

* .out system "cat ac.net"
.end

