* Wide Band Amp.

* bjt model statement
.model qnl npn bf=80 rb=100 tf=.3ns tr=6ns rb=100 cje=3pf cjc=2pf vaf=50

r:rs1 30 1 r=1k
r:rs2 31 0 r=1k
r:r1 5 3 r=4.8k
r:r2 6 3 r=4.8k
r:r3 9 3 r=811
r:r4 8 3 r=2.17k
r:r5 8 0 r=820
r:r6 2 14 r=1.32k
r:r7 2 12 r=4.5k
r:r8 2 15 r=1.32k
r:r9 16 0 r=5.25k
r:r10 17 0 r=5.25k

bjtnpn:q1 2 30 5 qn1
bjtnpn:q2 2 31 6 qn1
bjtnpn:q3 10 5 7 qn1
bjtnpn:q4 11 6 7 qn1
bjtnpn:q5 14 12 10 qn1
bjtnpn:q6 15 12 11 qn1
bjtnpn:q7 12 12 13 qn1
bjtnpn:q8 13 13 0 qn1
bjtnpn:q9 7 8 9 qn1
bjtnpn:q10 2 15 16 qn1
bjtnpn:q11 2 14 17 qn1

vsource:vin 1 0 vac=0.1 f=50e6 phase=-90 delay=1000ps
vsource:vcc 2 0 vdc=15 delay=900ps
vsource:vee 3 0 vdc=-15

** Analyze
.tran2 tstop=1ns tstep=10ps

.out plot term 16 vt in "out.vt16"
.out plot term 17 vt in "out.vt17"

.end

