**** Test netlist for  filter *****
 
*.svhb n_freqs = 200 fundamental = 1  steps=5 deriv=0
.tran2 tstop=819.2e-6 tstep=10e-9 im=0 

*.ac start=100 stop=3e3 n_freqs=501
resistor:r2 2 0 r=1.

vsource:vin 1 0 vac = 2v f=5e6

abmbutterbpf10:f1 1 0 2 0 bw=5e4 f0=5e6

.out plot term 2 vt in "butter10.tran.out"
.out plot term 2 vt fft mag db in "butter10.fft.out"
.out plot term 1 vt in "butter10.tran.in"
.out plot term 1 vt fft mag db in "butter10.fft.in"

*.out plot term 2 vf mag in "butter10.ac.out"
*.out plot term 1 vf mag in "butter10.ac.in"
*
.end






