.options f0=5.1e9 method=1 jupdm=1

*** DC Analysis
*.dc sweep="vsource:vgate" start=-2 stop=3 step=.01
*.dc

*** Transient Analysis
.tran2 tstop = 2E-9 tstep = 1E-11 out_steps=1
*.SVtran2 tstop = 1e-6 tstep = 10e-9 out_steps = 1

*** Sources
*vsource:vgate 1 0 vdc=1.5
vpulse:v1 1 0 v1=0 v2=4 td=0 tr=50e-12 tf=50e-12 pw=100e-12 per=200e-12
*vsource:vgate 1 0 vdc=1.5 vac=0.5 f=1Ghz delay=0

*** Network
resistor:r1 1 2 r=1000
resistor:r2 2 0 r=1000
resistor:r3 3 0 r=1000000
capacitormos:c1 1 3 0 w=1e-4 l=1e-4

***Transient and DC
.out plot term 1 vt in "node1.out"
.out plot term 2 vt in "node2.out"
.out plot element "capmos:c1" 0 it in "itunn.out"

*** ac analysis
*.out plot term 1 vf mag  in "node1.out"
*.out plot term 2 vf mag  in "node2.out"
*.out plot element "capmos:c1" 0 if mag in "itunn.out"
