diode.net
.OPTIONS FREQ = .4e9 ftol=1e-8

.svhb n_freqs = 32 fundamental = freq deriv=0 oversample = 4 steps = 0

diode:d1 1 3 js=5.1e-14 alfa=38.696 jb=1.0e-5 vb=-1.0e50 e=10 
+ CT0=1.32767e-15 gama=0.810205 fi=1.27517 afac=38.696 area=271 r0=10.

resistor:RLOAD 3 0 r=50

vsource:v1 111 0 f= freq vac=10. phase = -90
vsource:vdc 11 111 vdc=1.
resistor:rin 11 1 r=50
capacitor:rs 1 0 c=50pF

diode:d2 1 0 js=5.1e-14 alfa=38.696 jb=1.0e-5 vb=-1.0e50 e=10 
+ ct0=1.32767e-15 gama=0.810205 fi=1.27517 afac=38.696 area=271 r0=10.

.out plot term 1 vf term 3 vf sub invfft 2 repeat in "out.vd1"
.out plot term 1 vf term 3 vf sub mag in "mag.vd1"
* .out plot term 11 vf invfft 2 repeat in "out.v11"
*.out plot element "diode:d1" 0 if invfft 2 repeat in "out.idiode1"
*.out write element "diode:d1" 0 if mag db in "mag.idiode1"
* .out plot element "diode:d2" 0 if invfft in "out.idiode2"
* .out plot element "vsource:v1" 0 if invfft 2 repeat in "source.current"

* .out plot 2 term 1 vf invfft repeat in "out.vd2"

.end


