**** Test netlist for hbtnpnxt model, transient simulation****

.options f0 = 20e9

.tran2 tstop = 6e-9 tstep = 0.002e-9

hbtnpnxt:h1 1 2 0 0 100 "tref"

vsource:vc 6 0 vdc = 2
isource:ib 7 0 idc = 1e-3
vsource:v1 9 0 f = f0 vac = 0.05 delay = 1ns phase = 265

resistor:r1 9 8 r = 50
*resistor:r3 1 4 r = 1
resistor:r5 5 0 r = 50
*resistor:r6 3 0 r = 2.5

capacitor:c1 8 2 c = 1e-12
capacitor:c2 1 5 c = 1e-12
inductor:l1 2 7 l = 1e-9
inductor:l2 1 6 l = 1e-9

resistor:rth 100 101 r = 2200
capacitor:cth 100 101 c = 3e-10
vsource:t1 101 "tref" vdc=300
.ref "tref"

.out plot element "hbtnpnxt:h1" 0 ut in "hbt.vc"
.out plot element "hbtnpnxt:h1" 1 ut in "hbt.vb"
.out plot element "hbtnpnxt:h1" 1 it in "hbt.ib"
.out plot element "hbtnpnxt:h1" 0 it in "hbt.ic"
.out plot term 9 vt in "hbt.in"
.out plot term 5 vt in "hbt.out"

.end
