*** Sample netlist for a MESFET using the Curtice model ***

.options f0 = 5.1e9 jupdm=4 output=0

.svhb n_freqs = 15 fundamental = f0  steps=0 deriv=0

inductor:l1 1 2 l=1e-9 time_d=0
capacitor:c1 2 3 c=20e-11 time_d=0

inductor:l2 3 7 l=15e-9 time_d=0 
resistor:r2 7 8 r=100

inductor:l3 4 5 l=15e-9 time_d=0 
resistor:r3 5 6 r=10
capacitor:cload 4 9 c=20e-12 time_d=0
resistor:rload 9 0 r=50.

vsource:vbias 8 0  vdc = -.5
vsource:vdrain 6 0 vdc = 3.
resistor:rin 11 1 r = 50
vsource:vs 11 0 f = f0 vac = .4

resistor:rs 123 0 r=1.144

*** Mesfet 
mesfetc:m1 3 4 123
+ a0 = .016542 a1 = .0500214 a2 = .02012 a3 = -.00806592
+ gama = 2.16505 t = 5e-12 beta = -.0394707 is = 1e-9
+ vbd = 15 nr = 10 ib0 = 1e-9 cgs0 = .52785e-12 cgd0 = .087e-12 

.out plot term 4 vf term 123 vf sub invfft 4 repeat in "out.vds"
.out plot element "mesfetc:m1" 1 if invfft 4 repeat in "out.ids"

.end
