**** Test netlist for mesfet models ****

.options f0 = 5.1e9 jupdm=4 output=0 nonlin=4

.svhb n_freqs = 15 fundamental = f0  steps=0 deriv=0

inductor:l1 1 2 l=1e-9 time_d=0
capacitor:c1 2 3 c=20e-11 time_d=0
inductor:l2 3 7 l=15e-9 time_d=0 
resistor:r2 7 8 r=100

mesfetm:m1 3 4 123 idss = 0.06 vp0 = -1.906 gama = -0.015 e = 1.8 
+ sl = 0.0676 kg = 1.1 t = 7.0e-12 ss = 1.666e-3 ig0 = 7.13e-6 
+ afag = 38.46 r10 = 3.5 kr = 1.111 vbc = 12 ib0 = 7.13e-6 afab = 38.46 
+ c10 = 0.42e-12 k1 = 1.282 cf0 = 0.02e-12 kf = 1.282 

resistor:rs 123 0 r=1.144
inductor:l3 4 5 l=15e-9 time_d=0 
resistor:r3 5 6 r=10
capacitor:cload 4 9 c=20e-12 time_d=0
resistor:rload 9 0 r=50.

vsource:vbias 8 0  vdc = -.4
vsource:vdrain 6 0 vdc = 3.
resistor:rin 11 1 r = 50
vsource:vs 11 0 f = f0 vac = 1.

.out plot term 4 vf term 123 vf sub invfft 4 repeat in "out.vds"
.out plot term 4 vf term 123 vf sub mag in "out.vds.mag"
.out plot element "mesfetm:m1" 1 if invfft 4 repeat in "out.ids"

.end
