**** Test netlist for mesfet models ****

*.options f0 = \ 5e9 5.1e9 .1e9 \
.options f0 = 5.1e9 method = 2 jupdm = 1

*.svhb n_freqs = 15 fundamental = f0  steps=0 deriv=0 

*.dc

.svtr tstop = 1e-9 n_freqs = 8192 tstep = .002e-9 opt=0 adjust=0 imp_tol=30
+ rcomp = 100 deriv=0

inductor:l1 1 2 l=1e-9 time_d=0
*resistor:rfake3 1 2 r=1e6
capacitor:c1 2 3 c=20e-11 time_d=0
* resistor:fake1 2 3 r=1e6

inductor:l2 3 7 l=15e-9 time_d=0 
resistor:r2 7 8 r=100

mesfetm:m1 3 4 123 idss = 0.06 vp0 = -1.906 gama = -0.015 e = 1.8 
+ sl = 0.0676 kg = 1.1 t = 7.0e-12 ss = 1.666e-3 ig0 = 7.13e-6 
+ afag = 38.46 r10 = 3.5 kr = 1.111 vbc = 12 ib0 = 7.13e-6 afab = 38.46 
+ c10 = 0.42e-12 k1 = 1.282 cf0 = 0.02e-12 kf = 1.282 

resistor:rs 123 0 r=1.144

*mesfetc:m1 3 4 123 0 a0=40.e-3 a1=.05 a2=0. a3=0. beta=0.04 t=0.
*+ vt0=-1.2 gamma=1.5 
*+ is=1e-17 n=1. cgs0=1e-14 cgd0=1e-14 

* mesfetc:m2 3 4 123 0 a0 = .016542 a1 = .0500214 a2 = .02012 a3 = -.00806592
* + gamma = 2.16505 t = 5e-12 beta = -.0394707 rds = 100e3 is = 1e-9
* + vbd = 15 nr = 10 ib0 = 1e-9 cgs0 = .52785e-12 cgd0 = .087e-12 

inductor:l3 4 5 l=15e-9 time_d=0 
resistor:r3 5 6 r=10
capacitor:cload 4 9 c=20e-12 time_d=0
* resistor:rfake2 4 9 r=1e6
resistor:rload 9 0 r=50.

vsource:vbias 8 0  vdc = -.4
vsource:vdrain 6 0 vdc = 3.
resistor:rin 11 1 r = 50
vsource:vs 11 0 f = f0 vac = 1.

open:1 4 123

.out plot element "open:1" 0 ut in "out.v"
.out plot element "mesfetm:m1" 1 ut in "vds.tran"
*.out plot term 4 vf term 123 vf sub invfft 4 repeat in "out.vds"
*.out write term 4 vt term 123 vt sub in "out.dc"

.end
