 
.dc sweep="vsource:vds" start=0 stop=10 step=0.1

jfetn:m1 2 3 0 

resistor:rd 1 2 r=100.0

vsource:vds 1 0 vdc=10.0v 
vsource:vgs 3 0 vdc=1.5v

.out plot element "jfetn:m1" 0 it in "njfet_id.dc" 

.end
