*** Transient analysis of Philips Nmos9 (leve903) transistor. ***

* D G S B

.tran2  tstop = 6e-9 tstep = 0.05e-9

mosn9:m1 3 2 0 0

resistor:rd 1 3 r=1000

vsource:vds 1 0 vdc=5v

vpulse:vgs 2 0 v1=0 v2=4 td=0 tr=0.1e-9 tf=0.1e-9 pw=1e-9 per=2e-9

.out plot term 3 vt in "mosn9_id.tran"

.out plot term 2 vt in "mosn9_id.in"

.end
